US07956070B2
Step 2: 5-Bromo-6-oxo-2-(trifluoromethyl)-1,6-dihydropyridine-3-carboxylic acid
Ethyl 5-bromo-6-oxo-2-(trifluoromethyl)-1,6-dihydropyridine-3-carboxylate (0.25 g) was suspended in 30% aqueous hydrochloric acid and heated at reflux for 4 days. Cooling and filtration gave the subtitle compound (0.210 g).

reactant | Ethyl 5-bromo-6-oxo-2-(trifluoromethyl)-1,6-dihydropyridine-3-carboxylate | 0.25 g | BrC1=CC(=C(NC1=O)C(F)(F)F)C(=O)OCC | C9H7BrF3NO3
solvent | hydrochloric acid | Cl | ClH
product | 5-Bromo-6-oxo-2-(trifluoromethyl)-1,6-dihydropyridine-3-carboxylic acid | 0.210 g | BrC1=CC(=C(NC1=O)C(F)(F)F)C(=O)O | C7H3BrF3NO3
